US04414216
2-(4-Fluorophenyl)-4-(hydroxymethyl)tetrahydrofuran (21 g) is dissolved in 170 ml of pyridine whereupon 24.4 g of tosyl chloride is added below 4° C., and the resulting mixture is stirred at 4° C. for 1 hour and then at room temperature for 4 hours. The pyridine is then distilled off at room temperature under reduced pressure. Water is added to the residue and extracted with ethyl acetate. The extract is washed twice with dilute hydrochloric acid and once with water and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. To the residue are added n-hexane and isopropyl ether to give 32.7 g of 2-(4-fluorophenyl)-4-(tosyloxymethyl)tetrahydrofuran. This tosyl compound is recrystallized repeatedly from isopropanol to give cis-2-(4-fluorophenyl)-4-tosyloxymethyl)tetrahydrofuran as colorless needles, melting at 75°-76.5° C., and recrystallized from ethanol to give the trans-isomer as colorless needles, melting at 55°-57° C.

reactant | 2-(4-Fluorophenyl)-4-(hydroxymethyl)tetrahydrofuran | 21 g | FC1=CC=C(C=C1)C1OCC(C1)CO | C11H13FO2
reactant | tosyl chloride | 24.4 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 170 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-fluorophenyl)-4-(tosyloxymethyl)tetrahydrofuran | 32.7 g | FC1=CC=C(C=C1)C1OCC(C1)COS(=O)(=O)C1=CC=C(C)C=C1 | C18H19FO4S
